US08877774B2
Preparation of 2-(8-Bromooctyl)-1,3-dioxolane
To a cooled (−78° C.) solution of oxalyl chloride (11.66 g, 92 mmol) in DCM (250 mL), a solution of dimethylsulfoxide (DMSO) (13.0 mL, 183 mmol) in DCM (50 mL) was added over 15 minutes. After a further 5 minutes, a solution of 9-bromononanol (10.25 g, 45.9 mmol) in DCM (50 mL) was added dropwise over 15 minutes. The resulting reaction mixture was stirred at this temperature for 45 minutes. Triethylamine (32 mL, 230 mmol) was added, and the reaction mixture stirred at this temperature for 10 minutes. The coolant was removed and allowed to warm to RT. The reaction mixture was stirred at RT for 40 minutes and then diluted with water. The organic phase was removed and washed with 10% aqueous potassium hydrogen sulfate and dried (magnesium sulfate). The suspension was filtered and the filtrate evaporated under reduced pressure to afford the title compound.

reactant | oxalyl chloride | 92 mmol, 11.66 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 183 mmol, 13.0 mL | CS(=O)C | C2H6OS
reactant | 9-bromononanol | 45.9 mmol, 10.25 g | BrCCCCCCCCCO | C9H19BrO
reactant | Triethylamine | 230 mmol, 32 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 250 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-(8-Bromooctyl)-1,3-dioxolane | BrCCCCCCCCC1OCCO1 | C11H21BrO2
